US07652022B2
4-(4-Nitro-phenoxymethyl)pyridine
4-hydroxymethyl-pyridine (2.23 g, 20 mmol) is added to a suspension of KOH (1.32 g, 20 mmol) and Aliquat 336 (0.937 mL). After stirring for 5 min at rt, 1-chloro-4-nitro-benzene (2.68 g, 16.7 mmol) is added. The resulting reaction mixture is further stirred at rt for 5 min and then at 80° C. for 2 h. The reaction mixture is filtered over silica gel (15 g), concentrated under reduced pressure, and flash chronatographed (silica gel, 3×50 cm, acetone/CH2Cl2=5:95→15:85) to give the title compound as a yellow solid: M+H=231.0; 1H-NMR (400 MHz, DMSO-d6): 8.58 (d, 6.5 Hz, 2H, pyrimidinyl), 8.22 (d, 8.5 Hz, 2H, phenyl-NO2), 7.44 (d, 6.5 Hz, pyrimidinyl), 7.21 (d, 8.5 Hz, 2H, phenyl-NO2), 5.34 (s, 2H, CH2); Rf (acetone/CH2Cl2=15:85): 0.32; HPLC (System 1): 3.40 min.

reactant | 4-hydroxymethyl-pyridine | 20 mmol, 2.23 g | OCC1=CC=NC=C1 | C6H7NO
reactant | KOH | 20 mmol, 1.32 g | [OH-].[K+]
reactant | 1-chloro-4-nitro-benzene | 16.7 mmol, 2.68 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
catalyst | Aliquat 336 | 0.937 mL | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 4-(4-Nitro-phenoxymethyl)pyridine | [N+](=O)([O-])C1=CC=C(OCC2=CC=NC=C2)C=C1 | C12H10N2O3
